US09169246B2
Step 18.2. 7-[2-(1,4-diazepan-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
The product is obtained according to the procedure described in Step 1.7. starting with 7-[2-(1,4-diazepan-1-yl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-[2-(1,4-diazepan-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one, in the form of a white powder (hydrochloride, 1 H2O; yield 75%).

reactant | 7-[2-(1,4-diazepan-1-yl)pyrid-3-yl]-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | N1(CCNCCC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3C3OCCCC3 | C27H29F3N6O2
reactant | 7-[2-(1,4-diazepan-1-yl)pyrid-3-yl]-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | N1(CCNCCC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C27H31F3N6O2
reactant | hydrochloride | Cl | ClH
solvent | H2O | O | H2O
product | 7-[2-(1,4-diazepan-1-yl)pyrid-3-yl]-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | yield 75% | Cl.N1(CCNCCC1)C1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C22H21F3N6O.ClH/c23-22(24,25)13-31-18-11-14(4-5-16(18)19-17(21(31)32)12-28-29-19)15-3-1-7-27-20(15)30-9-2-6-26-8-10-30;/h1,3-5,7,11-12,26H,2,6,8-10,13H2,(H,28,29);1H
